US08871766B2
A) 4-(1-((2-chloropyridin-3-yl)carbonyl)-4-hydroxypiperidin-4-yl)benzonitrile
A suspension of 2-chloronicotinic acid (0.20 g), 4-(4-cyanobenzyl)-4-hydroxypiperidine hydrochloride (0.32 g), HATU (0.72 g) and triethylamine (0.89 mL) in DMF (4.0 mL) was stirred overnight at room temperature. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate, and filtered through basic silica gel. The filtrate was concentrated under reduced pressure to give the title compound (0.45 g).

reactant | 2-chloronicotinic acid | 0.20 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-(4-cyanobenzyl)-4-hydroxypiperidine hydrochloride | 0.32 g | Cl.C(#N)C1=CC=C(CC2(CCNCC2)O)C=C1
reactant | HATU | 0.72 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.89 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(1-((2-chloropyridin-3-yl)carbonyl)-4-hydroxypiperidin-4-yl)benzonitrile | 0.45 g | ClC1=NC=CC=C1C(=O)N1CCC(CC1)(O)C1=CC=C(C#N)C=C1 | C18H16ClN3O2
